US05444080
(ii) diethyl 2-[1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]ethylmalonate
The procedure of Example 3(iv) was followed using 5-(2-chloro)ethyl-1-[(2-chlorophenyl)methyl]-2-propylthio-1H-imidazole hydrochloride in place of 5-chloromethyl-1-[(2chlorophenyl)methyl]2-propylthio-1H-imidazole hydrochloride. The title compound was obtained in 71% yield after chromatography over silica gel with a gradient of ethyl acetate in methylene chloride.

reactant | 5-(2-chloro)ethyl-1-[(2-chlorophenyl)methyl]-2-propylthio-1H-imidazole hydrochloride | Cl.ClCCC1=CN=C(N1CC1=C(C=CC=C1)Cl)SCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | diethyl 2-[1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]ethylmalonate | 71% yield | ClC1=C(C=CC=C1)CN1C(=NC=C1CCC(C(=O)OCC)C(=O)OCC)SCCC | C22H29ClN2O4S
